US07071182B2
2-[4-(benzyloxy)phenyl]-N-(1-{2-[(2R)-2-methylpyrrolidin-1-yl]ethyl}-1H-indazol-4-yl)acetamide
The residue, 46.0 mg N-hydroxybenzotriazole (0.341 mmol), 0.170 mL of diisopropylethylamine (0.976 mmol), and 65.0 mg (0.269 mmol) of (4-benzyloxy-phenyl)-acetic acid was dissolved in 4 mL of DMF followed by the addition of 0.520 mg of PS-DCC resin (1.3 mmol/g, 0.676 mmol, 2.83 equiv) after which it was shaken and heated to 55° C. for 12 hours. The mixture was cooled to room temperature and the contents filtered through a sintered glass funnel. The filtrate was concentrated under reduced pressure and the residue prurified by silica gel column chromatography eluting with 50–100% ethyl acetate (3.5% triethylamine) to provide the title compound. 1H NMR (300 MHz, DMSO-D6) δ ppm 0.88 (d, J=6.10 Hz, 3 H), 1.20 (m, 1 H), 1.59 (m, 2 H), 1.80 (m, 1 H), 2.11 (q, J=8.81 Hz, 1 H), 2.30 (m, 1 H), 2.46 (m, 1 H), 3.06 (m, 1 H), 3.20 (m, 1 H), 3.71 (s, 2 H), 4.44 (t, J=6.78 Hz, 2 H), 5.09 (s, 2 H), 6.98 (m, 2 H), 7.36 (m, 9 H), 7.63 (m, 1 H), 8.26 (s, 1 H), 10.11 (s, 1 H); MS (DCI/NH3) m/z 469 [M+H]+.

reactant | N-hydroxybenzotriazole | 0.341 mmol, 46.0 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 0.976 mmol, 0.170 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (4-benzyloxy-phenyl)-acetic acid | 0.269 mmol, 65.0 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)O | C15H14O3
reactant | DCC | 0.676 mmol, 2.83 equiv | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-[4-(benzyloxy)phenyl]-N-(1-{2-[(2R)-2-methylpyrrolidin-1-yl]ethyl}-1H-indazol-4-yl)acetamide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)NC1=C2C=NN(C2=CC=C1)CCN1[C@@H](CCC1)C | C29H32N4O2
